US07262212B2
To a mixture of 4-(tert-butyldimethylsilanyloxy)benzyl 4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate (400 mg, 0.75 mmol) and THF(10 ml), a 1M solution of tetrabutylammonium fluoride in THF (0.8 ml, 0.8 mmol) was added followed by stirring for 20 minutes with cooling on ice-bath. To the reaction mixture, ethyl acetate was added, and the solution was washed with a saturated ammonium chloride solution, water and a saturated saline solution in this order, dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure. To the residue, diethyl ether was added, and the precipitates were filtered off to afford 4-hydroxybenzyl 4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate (95 mg, yield 30%) as a light yellow powder.

reactant | 4-(tert-butyldimethylsilanyloxy)benzyl 4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate | 0.75 mmol, 400 mg | CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CN2CCN(CC2)C(=O)OCC2=CC=C(C=C2)O[Si](C)(C)C(C)(C)C | C25H37N5O6Si
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 0.8 mmol, 0.8 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-hydroxybenzyl 4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate | 95 mg, yield 30% | CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CN2CCN(CC2)C(=O)OCC2=CC=C(C=C2)O | C19H23N5O6
